US08809353B2
To a solution of (R)-tert-butyl 1-(2-chloro-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (1.17 g, 3.22 mmol) in 50 mL of dichloromethane was added 10 mL of trifluoroacetic acid in portions. The reaction was stirred at RT for 1 hour. The solvent was evaporated, and the residue was dissolved in 20 mL of dichloromethane, cooled to 0° C., and quenched with 1M NaOH until basic. After partitioning between CH2Cl2 and H2O, the mixture was separated and the aqueous layer was twice extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification via silica gel chromatography using 0%-10% EtOAc in DCM gave (R)-1-(2-chloro-7-methylquinazolin-4-yl)pyrrolidin-3-amine (800 mg, 94% yield). LC/MS: m/z 262.9 (M+H)+ at 0.79 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-tert-butyl 1-(2-chloro-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 3.22 mmol, 1.17 g | ClC1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C18H23ClN4O2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-1-(2-chloro-7-methylquinazolin-4-yl)pyrrolidin-3-amine | 800 mg, 94% yield | ClC1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)N)C | C13H15ClN4
